US06329372B1
l) N-(Pyridine-2-carbonyl)-O-(2,6-dichlorobenzyl)-L-tyrosine
from O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester hydrochloride and 2-picolinic acid. δH (DMSO-d6) 8.8-8.6 (2H, m), 8.0 (2H, m), 7.7-7.4 (4H, m), 7.14 (2H, d, J 8.7 Hz), 6.92 (2H, d, J 8.7 Hz), 5.15 (2H, s), 4.72 (1H, m), 3.17 (2H, m); m/z (ESI, 60V) 445 (MH+).

reactant | O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O
reactant | 2-picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
product | N-(Pyridine-2-carbonyl)-O-(2,6-dichlorobenzyl)-L-tyrosine | N1=C(C=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)C(=O)O | C22H18Cl2N2O4
